US06046210
7-Methoxy-2-(4-phthalimidobutyl)-1,2,3,4-tetrahydroisoquinoline
Prepared from 4-phthalimidobutyraldehyde (15.96 g, 0.074 mol) and 7-methoxy-1,2,3,4-tetrahydroisoquinoline (10 g, 0.061 mol) using a procedure similar to that of Example 1 (13.5 g, 60%).

reactant | 4-phthalimidobutyraldehyde | 0.074 mol, 15.96 g | C1(C=2C(C(N1CCCC=O)=O)=CC=CC2)=O | C12H11NO3
reactant | 7-methoxy-1,2,3,4-tetrahydroisoquinoline | 0.061 mol, 10 g | COC1=CC=C2CCNCC2=C1 | C10H13NO
product | 7-Methoxy-2-(4-phthalimidobutyl)-1,2,3,4-tetrahydroisoquinoline | COC1=CC=C2CCN(CC2=C1)CCCCN1C(C=2C(C1=O)=CC=CC2)=O | C22H24N2O3
